US08455477B2
A mixture of methyl 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carboxylate (4.33 g, 15.2 mmol) and methyl 4-bromo-6-methoxypyrazolo[1,5-a]pyridine-3-carboxylate (1.44 g, 5.05 mmol) was suspended in hydrobromic acid (100 ml, 884 mmol) and heated to 100° C. for 60 minutes. The mixture was cooled to 0° C. and carefully quenched via the addition of 1N aqueous sodium hydroxide (152 ml, 909 mmol). The reaction mixture was diluted in ethyl acetate, washed with 1N aqueous sodium hydroxide and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (Ethyl acetate/isohexane gradient) to give 6-bromo-4-methoxypyrazolo[1,5-a]pyridine (faster eluting isomer) and 4-bromo-6-methoxypyrazolo[1,5-a]pyridine (slower eluting isomer).

reactant | methyl 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carboxylate | 15.2 mmol, 4.33 g | BrC=1C=C(C=2N(C1)N=CC2C(=O)OC)OC | C10H9BrN2O3
reactant | methyl 4-bromo-6-methoxypyrazolo[1,5-a]pyridine-3-carboxylate | 5.05 mmol, 1.44 g | BrC=1C=2N(C=C(C1)OC)N=CC2C(=O)OC | C10H9BrN2O3
reactant | hydrobromic acid | 884 mmol, 100 ml | Br | BrH
reactant | sodium hydroxide | 909 mmol, 1N, 152 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine | BrC=1C=C(C=2N(C1)N=CC2)OC | C8H7BrN2O
